US09193741B2
Synthesis of 2-methylthieno[2,3-d]pyrimidin-4(3H)-one
To a solution of ethyl 2-aminothiophene-3-carboxylate (0.1 g, 0.64 mmol) and acetonitrile (50 μl, 0.95 mmol) in dioxane (3 ml) was added 4M HCl in dioxane (3 ml). The mixture was stirred at room temperature overnight. The solvents were removed under reduced pressure. The residue was diluted with water and made alcaline with a saturated aqueous sodium bicarbonate solution. The precipitate was filtered off, washed with water and dried. The crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (42 mg, 40%).

reactant | ethyl 2-aminothiophene-3-carboxylate | 0.64 mmol, 0.1 g | NC=1SC=CC1C(=O)OCC | C7H9NO2S
reactant | acetonitrile | 0.95 mmol, 50 μl | C(C)#N | C2H3N
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-methylthieno[2,3-d]pyrimidin-4(3H)-one | 42 mg, 40% | CC=1NC(C2=C(N1)SC=C2)=O | C7H6N2OS
